US06369034B1
Scheme 3 shows a method by which the compounds of the present invention can be prepared, by illustrating the synthesis of Example 6, [1-{(2-Amino-ethyl)-[(2-methyl-2-phenyl-propylcarbamoyl)-methyl]-carbamoyl}-2-(3H-imidazol-4-yl)-ethyl]-carbamic acid benzyl ester. Reaction of (2-aminoethyl) carbamic acid tert-butyl ester with methyl bromoacetate was carried out in methylene chloride in the presence of triethylamine as the base to give (2-tert-butoxycarbonylamino-ethylamino)-acetic acid methyl ester hydrochloride which was then coupled to Cbz-His(trityl) in methylene chloride/dimethylformamide with HATU and HOAt as coupling agents, and diisopropylethylamine as the base. The resulting product was saponified using sodium hydroxide, followed by coupling with β,β-dimethylphenethylamine in methylene chloride, with PyBOP as coupling agent, and diisopropylethylamine as the base. The trityl and Boc groups were removed by treatment with 95% aqueous TFA.

reactant | [1-{(2-Amino-ethyl)-[(2-methyl-2-phenyl-propylcarbamoyl)-methyl]-carbamoyl}-2-(3H-imidazol-4-yl)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(CC=1NC=NC1)C(N(CC(NCC(C)(C1=CC=CC=C1)C)=O)CCN)=O)=O | C28H36N6O4
reactant | (2-aminoethyl) carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2-tert-butoxycarbonylamino-ethylamino)-acetic acid methyl ester hydrochloride | Cl.COC(CNCCNC(=O)OC(C)(C)C)=O | InChI=1S/C10H20N2O4.ClH/c1-10(2,3)16-9(14)12-6-5-11-7-8(13)15-4;/h11H,5-7H2,1-4H3,(H,12,14);1H
